US06964965B2
A 250 mL dry round bottom flask equipped with a magnetic stir bar and reflux condenser was charged with 2-chloro-3,6-diethylpyrazine (9.22 g, 54 mmol), dry toluene (108 mL), 1-ethyl propylamine (12.6 mL, 108 mmol), 2-(di-tert-butylphosphino)biphenyl (0.966 g, 3.24 mmol), sodium tert-butoxide (7.26 g, 75.6 mmol), and tris (dibenzylidineacetone)dipalladium (0) (1.48 g, 1.62 mmol) respectively. The mixture was heated to 100° C. for 4 hours. After cooling to ambient temperature, the reaction was poured in saturated aqueous NaHCO3 and extracted twice with ethyl acetate. The organics were combined, dried with Na2SO4, filtered and concentrated to 14.1 g of a dark crude oil. The crude was purified by Biotage MPLC in two batches (120 g columns, 10% ethyl acetate in heptane.) Like fractions were combined to give 10.0 g (84%) of 3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine as an orange oil.

reactant | 2-chloro-3,6-diethylpyrazine | 54 mmol, 9.22 g | ClC1=NC(=CN=C1CC)CC | C8H11ClN2
reactant | toluene | 108 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1-ethyl propylamine | 108 mmol, 12.6 mL | C(C)C(CC)N | C5H13N
reactant | sodium tert-butoxide | 75.6 mmol, 7.26 g | CC(C)([O-])C.[Na+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 3.24 mmol, 0.966 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | 3,6-diethyl-N-(1-ethylpropyl)pyrazin-2-amine | 10.0 g, 84% | C(C)C=1C(=NC(=CN1)CC)NC(CC)CC | C13H23N3
